US04332809
A mixture of ethyl 4-methyl-6-(4-aminophenyl)-2-pyridinecarboxylate hydrochloride (3.5 g), anhydrous potassium carbonate (8.8 g), dimethylformamide (30 ml) and methyl iodide (10 ml) is agitated at 50° C. for 30 minutes and further at 130° C. for 3 hours. After cooling, the reaction mixture is filtered to remove potassium carbonate. The filtrate is concentrated under reduced pressure in order to distill off the solvent. To the resulting residue is added water, and the mixture is extracted with ethyl acetate. The extract is washed with water and dried, and ethyl acetate is distilled off to give ethyl 4-methyl-6-(4-dimethylaminophenyl)-2-pyridinecarboxylate (2.2 g). M.P. 143°-144° C.

reactant | ethyl 4-methyl-6-(4-aminophenyl)-2-pyridinecarboxylate hydrochloride | 3.5 g | Cl.CC1=CC(=NC(=C1)C1=CC=C(C=C1)N)C(=O)OCC
reactant | potassium carbonate | 8.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 10 ml | CI | CH3I
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 4-methyl-6-(4-dimethylaminophenyl)-2-pyridinecarboxylate | 2.2 g | CC1=CC(=NC(=C1)C1=CC=C(C=C1)N(C)C)C(=O)OCC | C17H20N2O2
